US07435837B2
Treatment of (±)-3-[3-benzyl-2-(benzyloxy)phenyl]-2-hydroxypropyl 4-methylbenzenesulfonate (9.72 g, 0.019 mol) with palladium on carbon (0.97 g, 10 wt. %) generally according to the procedure described for Intermediate 4 provided 7.34 g (92%) of (±)-3-(3-benzyl-2-hydroxyphenyl)-2-hydroxypropyl 4-methylbenzenesulfonate as a colorless oil. Anal. calcd. for C23H24O5S: C, 66.97; H, 5.86. Found: C, 66.11; H, 5.95.

reactant | (±)-3-[3-benzyl-2-(benzyloxy)phenyl]-2-hydroxypropyl 4-methylbenzenesulfonate | 0.019 mol, 9.72 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C(=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)O | C30H30O5S
catalyst | palladium on carbon | 0.97 g | [Pd] | Pd
product | (±)-3-(3-benzyl-2-hydroxyphenyl)-2-hydroxypropyl 4-methylbenzenesulfonate | 7.34 g, 92% | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC1=C(C(=CC=C1)CC1=CC=CC=C1)O)O | C23H24O5S
